US04218448
By the method shown in Example 14, α,α-bis(trifluoromethyl)-2,3,4,5-tetrahydro-1H-1-benzazepine-7-methanol is converted to α,α-bis(trifluoromethyl)-1-(1,3-dioxobutyl)-2,3,4,5-tetrahydro-1H-1-benzazepine-7-methanol, m.p. 169°-171°, which is cyclized by heating in sulfuric acid (in this instance at 120° for 24 hours) to give 5,6,7,8-tetrahydro-10-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-1-methyl-3H-azepino[3,2,1-ij]quinolin-3-one, m.p. 197°-198°.

reactant | α,α-bis(trifluoromethyl)-2,3,4,5-tetrahydro-1H-1-benzazepine-7-methanol | FC(C(O)(C=1C=CC2=C(CCCCN2)C1)C(F)(F)F)(F)F | C13H13F6NO
reactant | α,α-bis(trifluoromethyl)-1-(1,3-dioxobutyl)-2,3,4,5-tetrahydro-1H-1-benzazepine-7-methanol | FC(C(O)(C=1C=CC2=C(CCCCN2C(CC(C)=O)=O)C1)C(F)(F)F)(F)F | C17H17F6NO3
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 5,6,7,8-tetrahydro-10-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-1-methyl-3H-azepino[3,2,1-ij]quinolin-3-one | FC(C(C(F)(F)F)(O)C=1C=C2C(=CC(N3C2=C(C1)CCCC3)=O)C)(F)F | C17H15F6NO2
